US05554630
4-t-Butyl-1-fluoro-2-nitrobenzene.
1-Fluoro-4-t-butylbenzene (10 g, 65.79 mmol) was dissolved in concentrated sulfuric acid (40 ml) at 0° C. Solid potassium nitrate (6.64 g, 65.79 mmol) was added in small portions during 1 hour. The temperature was kept below 5° C. Following the addition stirring was continued for 2 hours. The reaction mixture was poured into ice-water (400 ml) and extracted with dichloromethane (3×50 ml). The organic phase was washed with water, aqueous sodium bicarbonate (1M) and water successively, dried over MgSO4 and filtered through silica gel (5 g). Evaporation of solvent left the crude product (10.32 g). Column chromatography on silica gel using petroleum ether containing 1% dichloromethane as the eluent afforded the pure product (7.6 g colorless oil).

reactant | 1-Fluoro-4-t-butylbenzene | 65.79 mmol, 10 g | FC1=CC=C(C=C1)C(C)(C)C | C10H13F
reactant | potassium nitrate | 65.79 mmol, 6.64 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
product | 4-t-Butyl-1-fluoro-2-nitrobenzene | 7.6 g | C(C)(C)(C)C1=CC(=C(C=C1)F)[N+](=O)[O-] | C10H12FNO2
